Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
breakthrough seizures 
 
Major Surgical or Invasive Procedure:
n/a 

 
History of Present Illness:
The patient is a ___ with hx of polysubstance abuse, TBI and
residual cognitive issues, 1 prior seizure, here with several
seizures and left sided weakness and right gaze preference. 

History initially taken from EMS/ED providers and patient as
significant other not yet arrived in ED. Some components
clarified briefly with significant other later after seizure in
ED. Details may be missing due to patient's baseline level of
cognitive issues. Patient cannot remember anything from this AM 
-
does not remember the seizures or being weak on one side. 

Pt had TBI when in MVA (pt on motorized bike vs car) ___ years 
ago,
repeat head injury ___ year ago, and recently had mild head strike
1 day ago. Was previously on Depakote both for mood disorder as
well as seizure prevention after having around 1 seizure within
the last ___ years. This was self dc'ed by the patient for
unclear reasons aside from that he did not want to take the
medication anymore. Pt initially denied every being on an AED, 
it
is possible that he thought of Depakote as more of a psychiatric
drug than for seizures. 

Reports normal state of health in the last week. Though he has a
history of drug use, stopped cocaine and IVDU ___ year ago, hasn't
drank ETOH or used Percocet for 1 month. Unclear when last MJ 
use
was. No recent illness. 

Yesterday, he had a gradual onset R sided aching headache for
which he took Tylenol ___ last night. Today, he had the headache
in the AM and took Excedrin/Tylenol and went to nap. Last seen
normal at 1:30pm. Fiance came home at 3pm and found him in the
bed with left sided weakness and R gaze deviation. En route to
the ED ___, he had two "grand mal" seizures and was given
Ativan. ___ at ___ showed R frontal encephalomalacia. NIHSS at
the ___ very unclear - documented as ___ with deficits 
including
plegic on the left, neglecting the left, R gaze preference, left
sensory deficits, unclear dysarthria/aphasia. No TPA was given.
Transferred to ___ for possible embolectomy. 

NIHSS on arrival as above, much improved from what was described
as ___. After the CT scan, he had no drift - only finger
curling on the left with some mild neglect of the left. 

Because he likely had 3 seizures total today, 1 prior to being
found at 3pm and two more in the ambulance, he was loaded with
Depakote 1g IV. Seizure provoking factors thought to be recent
initiation of wellbutrin with likely R frontotemporal
encephalomalacia as seizure focus. 

In the ED, he had a 30sec to 1 minute self limited seizure one
hour after Depakote was given. 2mg IV Ativan was given after
seizure resolution. Returned to baseline afterwards. Fiancé at
bedside also reported that the patient had returned to baseline
before this seizure occurred. Because of this additional seizure
- he was loaded with Dilantin 1g IV before admission to the
floor. 

Seizure ROS - Pt says he has not been able to smell since his
TBI, no episodes of lost time, no awakening with tongue bite or
urinary incontinence. 

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, dysarthria. Denies focal muscle weakness, numbness,
parasthesia. Denies loss of sensation. 

On general review of systems, patient reports that he has
recently been dealing a suspected allergy issue undergoing 
workup
involving - 1 month of diarrhea, migratory swelling of left hip
and lips, migratory rash over left hip and then right sole of 
his
foot. 

He denies recent fever or chills.  Denies cough, shortness of
breath.  Denies chest pain.  Denies nausea, vomiting, diarrhea,
or abdominal pain. No dysuria.  Denies arthralgias or myalgias. 

 
Past Medical History:
- TBI as described above
- Cognitive issues s/p TBI followed by neurology ?Dr ___?
- Depression
- Polysubstance abuse
              
 
Social History:
___
Family History:
Denies family history of neurologic disease.  
 
Physical Exam:
Vitals: 37.2C, HR 88, 123/73, RR 16, 94% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No ___ edema. L tibia deformed from prior injury.
Scabs on tibia bilaterally. 

Neurologic:

-Mental Status: Alert, oriented to ___ or ___, age,
hospital (cannot remember name). Unable to relate much of the
history that occurred today. Inattentive, Unable to perform ___
or spell WORLD backwards. He can ___ forwards, WORLD 
forwards,
and with much prompting, he can complete ___ backwards. Language
is fluent with intact repetition and comprehension. Normal
prosody. There were no paraphasic errors. Pt was able to name
both high and low frequency objects - watch, watch face, thumb. 
Able to read without difficulty. Speech was not dysarthric. Able
to follow both midline and appendicular commands - including
cross body. Pt was able to register 3 objects and recall ___ at 
5
minutes - ___ with multiple choice. There was evidence of mild
neglect of the left.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI end gaze
nystagmus bilaterally. VFF to confrontation but will extinguish
in the left field at times. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. L fingers will curl with
testing of pronator drift. Orbiting around his left arm. Slower
taps with his left hand.  
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  *4+  5  *4+  5     5     5   5
R  5    ___   ___  *4+  5  *4+  5     5     5   5
* both of these limited by pain with give way - endorses b/l leg
pain and with testing of these muscles. 

-Sensory: No deficits to light touch, pinprick. Too inattentive
to test proprioception in toes and vibration - does not answer
appropriately. Some DSS with visual cues as noted above and to
light touch in left arm. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally. No crossed adductors or
pectoral jerks. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred

DISCHARGE PHYSICAL EXAM
Vitals: Tm 98.2F/Tc ___, BP 117-118/76-80, HR 73-74, RR 18, O2 
95-97% RA
Gen: awake, alert, comfortable, in no acute distress
HEENT: normocephalic atraumatic, no oropharyngeal lesions 
CV: warm, well perfused
Pulm: breathing non labored on room air
Extremities: no cyanosis/clubbing or edema

Neurologic:
-MS: Awake, alert, oriented to self, place, time and situation. 
Frontal and pleasantly disinhibited- baseline per fiancé. Easily 
maintains attention to examiner. Able to say months of the year 
backwards. Speech fluent, no dysarthria.  No evidence of 
hemineglect.
-CN: Gaze congjugate, ___, EOMI no nystagmus, face symmetric, 
palate elevates symmetrically, tongue midline
-Motor: normal bulk and tone. No tremor or asterixis. 
  Delt  Bic  Tri  ECR  FEx  FFl  IO  IP  Quad  Ham  TA   Gas  
___
L  5     5    5    5    5    5    5   5    5    5    5    5    5
R  5     5    5    5    5    5    5   5    5    5    5    5    5

-DTRs: 
  Bic   Tri  Brac Quad Gas  Plan
L  2     2    2     2   2    2  
R  2     2    2     2   2    2
-Sensory: intact to LT and proprioception in bilateral UE and ___
-Coordination: finger nose finger intact, no dysmetria
-Gait: narrow based, normal stride length, no ataxia or sway 

 
Pertinent Results:
___ 06:27PM BLOOD WBC-13.6* RBC-4.25* Hgb-13.2* Hct-39.3* 
MCV-93 MCH-31.1 MCHC-33.6 RDW-14.0 RDWSD-47.5* Plt ___
___ 06:27PM BLOOD Neuts-84.9* Lymphs-8.3* Monos-6.2 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-11.57* AbsLymp-1.13* 
AbsMono-0.85* AbsEos-0.00* AbsBaso-0.04
___ 06:27PM BLOOD Glucose-87 UreaN-19 Creat-0.8 Na-135 
K-4.6 Cl-99 HCO3-22 AnGap-19
___ 06:27PM BLOOD ALT-16 AST-27 AlkPhos-64 TotBili-1.2
___ 06:27PM BLOOD cTropnT-<0.01
___ 06:27PM BLOOD Albumin-4.1 Calcium-9.2 Phos-3.9 Mg-1.7
___ 06:27PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:20PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 08:20PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

 URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 7:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
 
Brief Hospital Course:
___ with hx of polysubstance abuse, TBI and residual cognitive
issues, prior seizures in setting of noncompliance with Depakote 
and drug use, who presented with several breakthrough seizures, 
which appeared of focal onset with secondary generalization. 
Patient had left sided weakness and right gaze preference that 
was likely a post-ictal ___. This resolved over several hours 
and he returned to his baseline. Seizures were only aborted 
after he had received repeated doses of benzodiazepines, was 
loaded on VPA and then on PHT. He was then admitted to the 
neurology service. His neurologic exam significant for 
encephalopathy, which improved gradually  though mild 
inattention and disinhibition persisted (baseline per fiancé; 
late sequellae of TBI). 

Etiology for breakthrough seizures is likely a combination of 
noncompliance with Depakote and starting Wellbutrin in the last 
month. Likely originating from the R frontal area of 
encephalomalacia given absence of new pathology on imaging and 
the semiology of the seizures.  

Initially Zonisamide 100mg x1 was given to try to transition 
patient to a once daily medication given non-complaince issues 
have been ongoing, but this led to swelling of the face and 
lips, concerning for angioedema. No further zonisamide was given 
and this is now listed as an allergy. Patient was started on 
Depakote 500mg BID, which is what he was taking prior to 
self-discontinuing the medication. He was counseled regarding 
the importance of staying on this drug and taking it regularly. 
Seizure precautions were discussed with the patient in detail 
repeatedly.

On day of discharge, patient felt "dizzy" when standing. There 
was no ataxia or other focal signs on neurological exam. ___ 
determined patient was at functional baseline and did not need 
further treatment. Orthostatic vital signs were found to be 
positive (SBP 120->100 on standing), but responsive to IVF. 
After receiving 1L NS, orthostatic vital signs were normal, with 
subjective improvement of the dizziness and he ambulated well. 
Encouraged PO intake. 

Patient was discharged with a new script for Depakote, including 
a 3 month supply. This was faxed to the pharmacy and confirmed 
directly with the pharmacist that it would be available for 
pickup. 

TRANSITIONAL ISSUES:
- Continue Home Depakote 500mg PO BID 
- Follow up with primary neurologist Dr. ___ 
- DO NOT take Bupropion (wellbutryn) moving forward 
- Follow up with psychiatrist/primary care physician regarding 
optimal antidepressant regimen. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 100 mg PO BID 
2. Donepezil 5 mg PO QHS 
3. Aspirin 81 mg PO DAILY 
4. Divalproex (DELayed Release) 500 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Divalproex (DELayed Release) 500 mg PO BID 
RX *divalproex ___ mg 1 tablet(s) by mouth twice daily Disp 
#*180 Tablet Refills:*1 
3.  Donepezil 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
epilepsy, partial onset with secondary generalization
late sequelae of traumatic brain injury

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
You were admitted to the hospital with breakthrough seizures. 
You had some weakness initially that was likely related to the 
seizure, and improved over several hours. The two most likely 
causes for your seizures are 1) that you were started on 
Wellbutryn (an antidepressant that lowers the seizure threshold) 
and 2) missed doses of your Depakote.  Moving forward, it will 
be important that you continue taking Depakote 500mg twice a 
day. You did not have any further seizures after we restarted 
this medication.  We recommend that you follow up with your 
Neurologist, Dr. ___.  She has been updated about your 
hospital course.  

It was a pleasure taking care of you.

Sincerely,
your ___ care team 
 
Followup Instructions:
___